US07342014B2
N-[(3R*,4S*)-4-Aminotetrahydro-3-furanyl]-5-chloroindole-2-carboxamide
5-Chloroindole-2-carboxylic acid (0.29 g), 1-hydroxybenzotriazole monohydrate (0.2 g) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.6 g) were successively added to a solution of the compound (0.5 g) obtained in Referential Example 171 in N,N-dimethylformamide (10 ml), and the mixture was heated and stirred at 50° C. for a day. The reaction mixture was concentrated, and the resultant residue was diluted with a mixed solvent composed of chloroform and methanol (9:1) and washed with a saturated aqueous solution of sodium hydrogencarbonate and saturated aqueous solution of sodium chloride. After the resultant organic layer was dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure, and the resultant residue was purified by column chromatography on silica gel (chloroform:methanol=95:5) to obtain the title compound (0.2 g).

reactant | 5-Chloroindole-2-carboxylic acid | 0.29 g | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
reactant | 1-hydroxybenzotriazole monohydrate | 0.2 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.6 g | Cl.CN(CCCN=C=NCC)C
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-[(3R*,4S*)-4-Aminotetrahydro-3-furanyl]-5-chloroindole-2-carboxamide | 0.2 g | N[C@H]1[C@H](COC1)NC(=O)C=1NC2=CC=C(C=C2C1)Cl | C13H14ClN3O2
